US04952600
(S)-1-[4-[3-(Acetyloxy)-1-pyrrolidinyl]-2-butynyl]-2-pyrrolidinone
A mixture of 500 mg of (S)-3-acetoxypyrrolidine, 530 mg of N-propargyl-2-pyrrolidinone, 150 mg of paraformaldehyde and 50 mg of cupric chloride in 10 ml of dioxane was stirred at reflux under argon for 4 hours. The dioxane was evaporated, the residue was treated with 5 ml of 1N hydrochloric acid and extracted twice with ether. The aqueous acid was basified with 1 g of sodium bicarbonate and extracted twice with dichloromethane. The extracts were combined, dried, filtered and concentrated in vacuo to an oil. This oil was purified by chromatography (alumina), giving 490 mg of the desired product as a yellow oil, [α]D26 =-3° (c, 1.02, methanol).

reactant | (S)-3-acetoxypyrrolidine | 500 mg | C(C)(=O)O[C@@H]1CNCC1 | C6H11NO2
reactant | N-propargyl-2-pyrrolidinone | 530 mg | C(C#C)N1C(CCC1)=O | C7H9NO
reactant | paraformaldehyde | 150 mg | C=O | CH2O
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
product | (S)-1-[4-[3-(Acetyloxy)-1-pyrrolidinyl]-2-butynyl]-2-pyrrolidinone | 490 mg | C(C)(=O)O[C@@H]1CN(CC1)CC#CCN1C(CCC1)=O | C14H20N2O3
